US06548493B1
A solution of 1-nitroso-2,3,4,5-tetrahydro-1H-1-benzazepine (2.60 g, 14.7 mmol) in THF (40 mL) was added dropwise under N2 to a suspension of LAH (0.56 g, 14.7 mmol) in THF (10 mL) cooled with an ice-bath such that the temperature did not rise above 150° C. The mixture was stirred at room temperature for 1 h, quenched with saturated Rochelle's salt solution (15 mL) and extracted with ether (3×20 mL). The organic layer was dried (Na2SO4), concentrated in vacuo and flash column chromatography (EtOAc:hexane/1:4) gave 2,3,4,5-tetrahydro-1H-1-benzazepin-amine (1.63 g, 68%) as a light yellow solid. 1H NMR (CDCl3, 300 MHz) δ1.50-1.72 (m, 2H), 1.78-1.92 (m, 2H), 2.70-2.82 (m, 2H), 3.180-3.22 (m, 2H), 3.78 (br, 2H), 6.91 (td, J=7.3, 1.5 Hz, 1H), 7.10 (dd, J=1.1, 7.4 Hz, 1H), 7.21 (td, J=8.0, 1.4 Hz, 1H), 7.28 (dd, J=1.4, 8.0 Hz, 1H) ppm.

reactant | 1-nitroso-2,3,4,5-tetrahydro-1H-1-benzazepine | 14.7 mmol, 2.60 g | N(=O)N1CCCCC2=C1C=CC=C2 | C10H12N2O
reactant | LAH | 14.7 mmol, 0.56 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2,3,4,5-tetrahydro-1H-1-benzazepin-amine | 1.63 g, 68% | N1(CCCCC2=C1C=CC=C2)N | C10H14N2
